US06172044B2
a) Preparation of Ethyl 3-Amino-2-hydroxy-4-methyl-pentanoate•hydrochloride
Treat 3-Amino-2-hydroxy-4-methylpentanoic acid (0.89 g, 6.05 mmol) (Peet, N. P. et al., J. Med. Chem., 33, 394 (1990)) in CH3CH2OH (25 mL and then 20 mL) with gaseous HCl. Concentrate and dry over KOH pellets to give the title compound.

reactant | 3-Amino-2-hydroxy-4-methylpentanoic acid | 6.05 mmol, 0.89 g | NC(C(C(=O)O)O)C(C)C | C6H13NO3
reactant | HCl | Cl | ClH
reactant | CH3CH2OH | CCO | C2H6O
product | Ethyl 3-Amino-2-hydroxy-4-methyl-pentanoate•hydrochloride | NC(C(C(=O)OCC)O)C(C)C.Cl | InChI=1S/C8H17NO3.ClH/c1-4-12-8(11)7(10)6(9)5(2)3;/h5-7,10H,4,9H2,1-3H3;1H
